US08877801B2
To a solution of (E)-3-(5-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)acrylic acid (0.057 g, 0.14 mmol) in DMF (1.406 mL) was added HATU (0.064 g, 0.17 mmol), methylamine hydrochloride (10.45 mg, 0.16 mmol) and NMM (0.077 mL, 0.70 mmol). The resulting mixture was stirred at room temperature for 48 h after which time the reaction was quenched with sat. aq. NH4Cl and extracted with EtOAc (3×). The combined organic layers were passed through a phase separator and concentrated in vacuo to afford the crude product which was purified by reverse phase HPLC (acidic condition, 3% TFA in 10-100% CH3CN/H2O) to afford (E)-3-(5-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)-N-methylacrylamide (30 mg, 0.05 mmol, 37% yield). 1H NMR (400 MHz, (CD3)2SO) δ ppm=2.67-2.72 (m, 3H), 6.77-6.90 (m, 4H), 7.14-7.23 (m, 2H), 7.30 (d, J=2.02 Hz, 1H), 7.36 (d, J=15.16 Hz, 1H), 7.44-7.51 (m, 3H), 8.42 (d, J=3.03 Hz, 1H). LC/MS (m/z, MH+): 419.3.

reactant | (E)-3-(5-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)acrylic acid | 0.14 mmol, 0.057 g | OC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)/C=C/C(=O)O)C2=CC=C(C=C2)O)C1 | C22H15NO5S
reactant | HATU | 0.17 mmol, 0.064 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methylamine hydrochloride | 0.16 mmol, 10.45 mg | Cl.CN
reactant | NMM | 0.70 mmol, 0.077 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.406 mL | CN(C)C=O | C3H7NO
product | (E)-3-(5-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)-N-methylacrylamide | 0.05 mmol, 30 mg, 37% yield | OC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)/C=C/C(=O)NC)C2=CC=C(C=C2)O)C1 | C23H18N2O4S
